US08729263B2
2-(4-Isopropoxy-3-methoxyphenyl)ethanamine hydrochloride (487 mg, 2.33 mmol) was taken up in MeOH and loaded onto an SCX column. The crude material was washed with methanol then eluted with 2 N ammonia in methanol. The product-containing fractions were concentrated to afford the free base 2-(4-isopropoxy-3-methoxyphenyl)ethanamine. This material was dissolved in THF (23.3 mL) and 2-formamidoacetic acid (360 mg, 3.49 mmol), DCC (528 mg, 2.56 mmol), HOBt (392 mg, 2.56 mmol), and NMM (1.02 mL, 9.31 mmol) were added. The resulting suspension was stirred at RT for 3 hours, diluted with ether and filtered through celite. The filtrate was purified by silica gel chromoatorgraphy (25%-50% AcOH in DCM) to afford 2-formamido-N-(4-isopropoxy-3-methoxyphenethyl)acetamide (650 mg) MS [M+H+]=295.3.

reactant | 2-formamidoacetic acid | 3.49 mmol, 360 mg | C(=O)NCC(=O)O | C3H5NO3
reactant | DCC | 2.56 mmol, 528 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBt | 2.56 mmol, 392 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 9.31 mmol, 1.02 mL | CN1CCOCC1 | C5H11NO
reactant | THF | 23.3 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-formamido-N-(4-isopropoxy-3-methoxyphenethyl)acetamide | 650 mg | C(=O)NCC(=O)NCCC1=CC(=C(C=C1)OC(C)C)OC | C15H22N2O4
